US07271274B2
2,6-Di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-ethoxy-5(R)-hydroxymethyl-[1,3]dioxolan-4(R)-ylmethoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol
The title compound was prepared using the same procedure as described in Ex-1A starting from probucol and 2-ethoxy-1,3-dioxolane-4(R),5(R)-dimethanol as a white solid (10.3 g, 35%), mp 60–62° C. 1H-NMR (300 MHz, CDCl3) δ 7.56 (s, 2H), 7.44 (s, 2H), 5.89 (s, 1H), 5.36 (s, 1H), 4.75–4.78 (m, 1H), 4.19–4.24 (m, 2H), 3.92–3.99 (m, 2H), 3.84 (dd, 1H, J=10.0, 4.2 Hz), 3.60–3.74 (m, 2H), 2.79 (dd, 1H, J=9.1, 3.3 Hz). 1.43–1.45 (m, 42H), 1.28 (t, 3H, J=7.2 Hz). HRMS (ESI) calcd for C38H60O6S2 (M+Na), 699.3729; found, 699.3756. Anal. calcd. for C38H60O6S2: C, 67.42, H, 8.93, S, 9.47; found: C, 67.04, H, 9.00, S, 8.86.

reactant | probucol | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C31H48O2S2
reactant | 2-ethoxy-1,3-dioxolane-4(R),5(R)-dimethanol | 10.3 g | C(C)OC1O[C@@H]([C@H](O1)CO)CO | C7H14O5
product | 2,6-Di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-ethoxy-5(R)-hydroxymethyl-[1,3]dioxolan-4(R)-ylmethoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OC[C@H]1OC(O[C@@H]1CO)OCC)C(C)(C)C)C(C)(C)C)O | C38H60O6S2
